US04920120
1-Cyclopropyl-6,8-difluoro-1,4-dihydro-5-methyl-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid
A suspension of 0.85 g (2.85 mmol) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid, 1.00 g (11.6 mmol) of anhydrous piperazine, and 20 ml of acetonitrile was refluxed for five hours, then stirred at room temperature overnight. The precipitate was filtered, washed with water and acetonitrile, and dried to give 0.91 g of the title compound, mp 205°-206° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 2.85 mmol, 0.85 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C14H10F3NO3
reactant | piperazine | 11.6 mmol, 1.00 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-6,8-difluoro-1,4-dihydro-5-methyl-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 0.91 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCNCC1)F)C)=O)C(=O)O | C18H19F2N3O3
